US08383654B2
Step 1: {1-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzyl]-1H-pyrazol-4-yl}-acetic acid ethyl ester
N-[3-tert-Butylsulfanylmethyl-4-(4-cyanomethyl-pyrazol-1-ylmethyl)-phenyl]-2,2-dimethyl-propionamide (0.080 g, 0.20 mmol) in EtOH (10 mL) was treated with sulfuric acid (10 drops) and stirred at 50° C. for 2 hours. No reaction was observed, so additional sulfuric acid (0.5 mL) was added, and the reaction was stirred at 62° C. overnight. A small amount of product was observed, so the mixture was diluted with H2O and extracted with EtOAc to isolate a mixture of starting material and product. The mixture was dissolved in EtOH (10 mL) and treated with acetyl chloride (0.29 mL, 4.0 mmol). The reaction was stirred overnight at 62° C., after which time the reaction was complete. The mixture was partitioned between EtOAc and H2O, and the organic layer was separated and purified by preparative HPLC to give the title compound.

reactant | N-[3-tert-Butylsulfanylmethyl-4-(4-cyanomethyl-pyrazol-1-ylmethyl)-phenyl]-2,2-dimethyl-propionamide | 0.20 mmol, 0.080 g | C(C)(C)(C)SCC=1C=C(C=CC1CN1N=CC(=C1)CC#N)NC(C(C)(C)C)=O | C22H30N4OS
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetyl chloride | 4.0 mmol, 0.29 mL | C(C)(=O)Cl | C2H3ClO
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
solvent | H2O | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | {1-[2-tert-Butylsulfanylmethyl-4-(2,2-dimethyl-propionylamino)-benzyl]-1H-pyrazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=NN(C1)CC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CSC(C)(C)C)=O | C24H35N3O3S
